US08193199B2
Prepared according to procedure K: To a solution of 2-(2-chlorophenyl)-8-methylquinoline-3-carbaldehyde (1.4 g, 5 mmol) in THF (20 mL) at 0° C. under N2 was added dropwise a solution of allylmagenisiumbromide (1M, 1.1 eq, 5.5 mL) in THF and the mixture was stirred at 0° C. for 2 h. The mixture was partitioned between EtOAc (50 mL) and H2O (30 mL), the layers were separated, the aqueous layer was extracted with EtOAc (2×30 mL). The combined organic layers were dried (Na2SO4), concentrated and purified by flash chromatography (0% to 25% EtOAc/hexane) to provide 1-(2-(2-chlorophenyl)-8-methyl-quinolin-3-yl)but-3-en-1-ol as a colorless oil. 1H-NMR (CDCl3) δ 8.45 (s, major, 1H), 8.40 (s, minor, 1H), 7.77 (d, J=7.9 Hz, 1H), 7.43-7.60 (m, 6H), 5.56-5.73 (m, 1H), 4.96-5.17 (m, 2H), 4.80-4.84 (m, 1H), 2.80 (s, 3H), 2.34-2.59 (m, 2H). Mass Spectrum (ESI) m/e=324 (M+1).

reactant | 2-(2-chlorophenyl)-8-methylquinoline-3-carbaldehyde | 5 mmol, 1.4 g | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1C=O)C | C17H12ClNO
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2-(2-chlorophenyl)-8-methyl-quinolin-3-yl)but-3-en-1-ol | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1C(CC=C)O)C | C20H18ClNO
